US06156700
Preparation of Ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate
A mixture of ethyl 5-[3,6-dihydro-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate (0.643 g, 0.00160 mol) and potassium carbonate (0.243 g, 0.00170 mol) in N,N-dimethylformamide is stirred at room temperature for 90 minutes, treated with iodomethane (0.320 mL, 0.00500 mol), stirred at room temperature overnight, and diluted with water. The resultant aqueous mixture is extracted with methylene chloride. The organic extract is washed with water, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a brown oil. Column chromatography of the oil using silica gel and a 10% ethyl acetate in hexanes solution gives the title product as a tan solid (0.362 g, mp 150-152° C.).

reactant | ethyl 5-[3,6-dihydro-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate | 0.00160 mol, 0.643 g | O=C1N(C(C=C(N1)C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC(=O)OCC)C1 | C16H12F3N3O4S
reactant | potassium carbonate | 0.00170 mol, 0.243 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.00500 mol, 0.320 mL | IC | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate | 0.362 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC(=O)OCC)C1)=O | C17H14F3N3O4S
